US06982348B2
1) ethyl 3-(5-chloro-2-thienyl)-3-oxopropionate
To a solution of 5-chlorothiophene-2-carboxylic acid (10.12 g, 62.24 mmol) in tetrahydrofuran (80 ml) was added 1,1′-carbonyldiimidazole (11.1 g, 68.5 mmol) at room temperature and the mixture was stirred as it was for 6 hrs. Monoethyl malonate monomagnesium salt (9.81 g, 34.2 mmol) was added to this mixture at room temperature and the mixture was stirred at 60° C. for 3 hrs. The reaction solution was diluted with ethyl acetate and water, and acidified with conc. hydrochloric acid. The ethyl acetate layer was separated, and the aqueous layer was extracted with ethyl acetate. The collected organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The obtained crude product was purified by silica gel column chromatography (hexane/ethyl acetate=6/1) to give the objective substance.

reactant | 5-chlorothiophene-2-carboxylic acid | 62.24 mmol, 10.12 g | ClC1=CC=C(S1)C(=O)O | C5H3ClO2S
reactant | 1,1′-carbonyldiimidazole | 68.5 mmol, 11.1 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Monoethyl malonate monomagnesium salt | 34.2 mmol, 9.81 g | [Mg+].C(CC(=O)[O-])(=O)OCC
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | ethyl 3-(5-chloro-2-thienyl)-3-oxopropionate | ClC1=CC=C(S1)C(CC(=O)OCC)=O | C9H9ClO3S
